US09428499B2
Step b: Synthesis of 2-(3-aminophenyl)-N-cyclopropylacetamide
To a stirred solution of N-cyclopropyl-2-(3-nitrophenyl)acetamide (2.4 g, 10.90 mmol) in methanol (25.0 ml) was added slurry of Pd/C (10%, 0.232 g), To the above reaction mixture, triethylsilane (8.70 ml, 54.5 mmol) was added slowly drop wise at room temperature (reaction was exothermic) and then the reaction mixture was stirred at room temperature for 1 hr. The reaction mixture was filtered through celite bed and the filtrate was evaporated under vacuum. The residue was triturated in hexane, the solid obtained was filtered and dried under vacuum to give the product (1.95 gm).

reactant | N-cyclopropyl-2-(3-nitrophenyl)acetamide | 10.90 mmol, 2.4 g | C1(CC1)NC(CC1=CC(=CC=C1)[N+](=O)[O-])=O | C11H12N2O3
reactant | triethylsilane | 54.5 mmol, 8.70 ml | C(C)[SiH](CC)CC | C6H16Si
solvent | methanol | 25.0 ml | CO | CH4O
catalyst | Pd/C | 0.232 g | [Pd] | Pd
product | 2-(3-aminophenyl)-N-cyclopropylacetamide | 1.95 gm | NC=1C=C(C=CC1)CC(=O)NC1CC1 | C11H14N2O
